US05547949
Preparation of 6-chloro-2-(1,1-dimethylethylamino)-4-(2,2-dimethylpropylamino)pyrimidine
After dissolving 5.0 g of 4,6-dichloro-2-(1,1-dimethylethylamino)pyrimidine in 25 ml of isopropanol and adding 5 ml of 1-amino-2,2-dimethylpropane, the reaction mixture is boiled under reflux for 20 hours, then the reaction mixture is evaporated and the residue is distributed between 80 ml of chloroform and 15 ml of 10% sodium hydroxide solution. After separation the organic phase is washed 4 times with 20 ml of water each, then dried and evaporated. The residue is recrystallized from hexane to give the title compound in a yield of 4.49 g (73%), m.p.:109.5°-111° C.

reactant | 4,6-dichloro-2-(1,1-dimethylethylamino)pyrimidine | 5.0 g | ClC1=NC(=NC(=C1)Cl)NC(C)(C)C | C8H11Cl2N3
reactant | 1-amino-2,2-dimethylpropane | 5 ml | NCC(C)(C)C | C5H13N
solvent | isopropanol | 25 ml | C(C)(C)O | C3H8O
product | 6-chloro-2-(1,1-dimethylethylamino)-4-(2,2-dimethylpropylamino)pyrimidine | ClC1=CC(=NC(=N1)NC(C)(C)C)NCC(C)(C)C | C13H23ClN4
